US08981085B2
6N HCl (7.46 mL, 44.76 mmol) was added to a solution of diethyl trans-1-benzyl-4-cyclopropylpiperidin-3-ylphosphoramidate (1.64 g, 4.48 mmol) in dioxane (5 mL) and stirred at 66° C. (bath) for 2 hours. The solvent was removed in vacuo, and the residue obtained was dissolved in THF (5 mL) and 6N NaOH (7 mL). Boc2O (1.95 g, 8.95 mmol) was added and stirred at room temperature for 1 hour. Ethyl acetate (20 mL) was added, and the organic layer was separated, dried (sodium sulfate) and concentrated in vacuo. The residue obtained was purified by flash chromatography on silica gel (hexane:ethyl acetate=3:1) to give tert-butyl trans-1-benzyl-4-cyclopropylpiperidin-3-ylcarbamate (1.20 g, 81%) as a solid.

reactant | HCl | 44.76 mmol, 6N, 7.46 mL | Cl | ClH
reactant | diethyl trans-1-benzyl-4-cyclopropylpiperidin-3-ylphosphoramidate | 4.48 mmol, 1.64 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)C1CC1)NP(OCC)(OCC)=O | C19H31N2O3P
reactant | Boc2O | 8.95 mmol, 1.95 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NaOH | 6N, 7 mL | [OH-].[Na+]
product | tert-butyl trans-1-benzyl-4-cyclopropylpiperidin-3-ylcarbamate | 1.20 g, 81% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)C1CC1)NC(OC(C)(C)C)=O | C20H30N2O2
